US05180833
To a mixture of 0.22 g of N-acetyl-S-methyl-N'-nitroisothiourea and 5 ml of acetonitrile was dropwise added 0.2 g of 5-(aminomethyl)-2-chlorothiazole at -2° C. Stirring was continued at the same temperature for additional 1 hour, and then the reaction mixture concentrated. The residue solidified was recrystallized from ethanol to give 0.31 g of N-actyl-N'-(2-chloro-5-thiazolylmethyl)-N"-nitroguanidine (reference compound No. 5), mp 132°-133° C. NMR (CDCl3): 2.33(3H, s), 4.68(2H, d, J=6 Hz), 7.50(1H, s), 9.60(1H, br), 11.85(1H, br).

reactant | N-acetyl-S-methyl-N'-nitroisothiourea | 0.22 g | C(C)(=O)NC(SC)=N[N+](=O)[O-] | C4H7N3O3S
reactant | 5-(aminomethyl)-2-chlorothiazole | 0.2 g | NCC1=CN=C(S1)Cl | C4H5ClN2S
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | N-actyl-N'-(2-chloro-5-thiazolylmethyl)-N"-nitroguanidine | 0.31 g | C(C)(=O)NC(=N[N+](=O)[O-])NCC1=CN=C(S1)Cl | C7H8ClN5O3S
